US07157488B2
6-Benzyloxytryptamine
Add to a mixture of LAH (6.2 g, 163.1 mmol) and 300 mL dry THF a solution of 3-(2-nitrovinyl)-6-benzyloxy-1H-indole (9 g, 30.6 mmol) in 200 mL THF. Reflux the mixture overnight and then cool to 0° C. and quench sequentially with 6.2 mL water, 6.2 mL 15% aqueous NaOH and 18.6 mL water. After stirring 2 hours, filter through celite and concentrate to give 7.9 g (96%) of the title compound as an oil: 1H NMR (CDCl3) 8.06 (bs, 1H), 7.47–7.43 (m, 3H), 7.38–7.35 (m, 2H), 7.32–7.28 (m, 1H), 6.88–6.84 (m, 3H), 5.08 (s, 2H), 3.01–2.97 (m, 2H), 2.87–2.83 (m, 2H), 1.6 (bs, 2H).

reactant | LAH | 163.1 mmol, 6.2 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(2-nitrovinyl)-6-benzyloxy-1H-indole | 30.6 mmol, 9 g | [N+](=O)([O-])C=CC1=CNC2=CC(=CC=C12)OCC1=CC=CC=C1 | C17H14N2O3
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 6-Benzyloxytryptamine | 7.9 g, 96% | C(C1=CC=CC=C1)OC=1C=C2NC=C(CCN)C2=CC1 | C17H18N2O
